US08071584B2
5-(1-Benzothien-5-yl)-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide
5-Bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide (0.06 g, 0.168 mmol) and 1-benzothien-5-ylboronic acid (0.036 g, 0.202 mmol) was dissolved in a 6:1 solution of 1,4 dioxane/water in a 20 mL microwave reaction vessel. Potassium carbonate (0.113 g, 0.816 mmol) was added and the solution was degassed with Argon. PdCl2(dppf) (0.025 g, 0.034 mmol) was added and the reaction was heated in a microwave at 100° C. for 20 min. The solution was passed through a StratoSphere SPE PL-Thiol MP SPE column to remove palladium and purified on Gilson preparative HPLC using Acetonitrile/Water with 0.1% TFA. The desired fractions were concentrated, giving 0.044 g (67%) of the title compound.

reactant | 5-Bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide | 0.168 mmol, 0.06 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CS(CC1)(=O)=O | C13H13BrN2O3S
reactant | 1-benzothien-5-ylboronic acid | 0.202 mmol, 0.036 g | S1C=CC2=C1C=CC(=C2)B(O)O | C8H7BO2S
reactant | Potassium carbonate | 0.816 mmol, 0.113 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4 dioxane water | O1CCOCC1.O
catalyst | PdCl2(dppf) | 0.034 mmol, 0.025 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(1-Benzothien-5-yl)-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide | 0.044 g, 67% | S1C=CC2=C1C=CC(=C2)C=2C=C1C(=CNC1=C(C2)C(=O)N)C2CS(CC2)(=O)=O | C21H18N2O3S2
